US04017631
4.2 Parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)-phenethyl]imidazole, 3.7 parts of p-chlorobenzyl iodide and 56 parts of methylene chloride are mixed together and stirred at reflux temperature for five hours to obtain a 1-(p-chlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium iodide product which remains in the reaction mixture. The reaction mixture is warmed to evaporate off the solvent and to recover the product as residue. The crude product is purified by washing with 2-propanol and crystallizing from a mixture of 4-methyl-2-pentanone and diisopropyl ether, to yield 1-(p-chlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium iodide; m.p. 145° -148° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)-phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | p-chlorobenzyl iodide | ClC1=CC=C(CI)C=C1 | C7H6ClI
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(p-chlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium iodide | [I-].ClC1=CC=C(C[N+]2=CN(C=C2)CC(C2=C(C=C(C=C2)Cl)Cl)OCC2=C(C=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C25H20Cl5N2O.HI/c26-19-4-1-17(2-5-19)13-31-9-10-32(16-31)14-25(22-8-7-21(28)12-24(22)30)33-15-18-3-6-20(27)11-23(18)29;/h1-12,16,25H,13-15H2;1H/q+1;/p-1
